US05498630
2-tert-butyl-N-ethylbenzamide was prepared from 2-tert-butylbenzoyl chloride, prepared in Example 186, and 70% ethylamine in water according to the method of step b of Example 248.

reactant | 2-tert-butylbenzoyl chloride | C(C)(C)(C)C1=C(C(=O)Cl)C=CC=C1 | C11H13ClO
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | 2-tert-butyl-N-ethylbenzamide | C(C)(C)(C)C1=C(C(=O)NCC)C=CC=C1 | C13H19NO
